US04945098
1-Octadecylaminocarbonyloxy-3-[6-(trimethylammonio)hexanoyloxy]-2-methylenepropane bromide
1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane (from Preparation 9) (0.84 g) was dissolved in 33% trimethylamine in ethanol (30 ml) and heated to 60° C. in a sealed flask for 5 hours. Excess trimethylamine and ethanol were removed in vacuo.

reactant | 1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | 0.84 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C29H54BrNO4
reactant | trimethylamine | CN(C)C | C3H9N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-Octadecylaminocarbonyloxy-3-[6-(trimethylammonio)hexanoyloxy]-2-methylenepropane bromide | [Br-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCC[N+](C)(C)C)=O)=C | InChI=1S/C32H62N2O4.BrH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23-26-33-32(36)38-29-30(2)28-37-31(35)25-22-21-24-27-34(3,4)5;/h2,6-29H2,1,3-5H3;1H
